// Generated for: spectre
// Generated on: Jun  5 01:21:29 2024
// Design library name: LDO_FC_SSF_N65
// Design cell name: tb_DC
// Design view name: schematic
simulator lang=spectre
global 0
parameters VDD=1.2 CAP_CMP IBN_EA RES_CMP VB_1 VB_2
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mim
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_dnw
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip_npn
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfrtmom
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_disres
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_res
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_hvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_lvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_sa
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_esd
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmim
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25ud18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25ud18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfjvar
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rtmom
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_rpo
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_hvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfind
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_lvt

// Library name: LDO_FC_SSF_N65
// Cell name: EA_Core
// View name: schematic
subckt EA_Core IBN_EA VB_1 VB_2 VDD VEA VFB VG VREF VSS
    M1 (net125 VFB net66 net66) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=540.0n ad=2.4e-12 as=2.4e-12 pd=10.96u ps=10.96u nrd=0.054 \
        nrs=0.054 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M25 (VG IBP_BUF2 VSS VSS) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=200n ad=8.75e-13 as=8.75e-13 pd=10.35u ps=10.35u nrd=0.02 \
        nrs=0.02 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M18 (VEA VB_1 net127 VSS) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=200n ad=8.75e-13 as=8.75e-13 pd=10.35u ps=10.35u nrd=0.02 \
        nrs=0.02 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M17 (net126 VB_1 net124 VSS) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=200n ad=8.75e-13 as=8.75e-13 pd=10.35u ps=10.35u nrd=0.02 \
        nrs=0.02 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M16 (IBN_EA IBN_EA VSS VSS) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=200n ad=8.75e-13 as=8.75e-13 pd=10.35u ps=10.35u nrd=0.02 \
        nrs=0.02 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M13 (net66 IBN_EA VSS VSS) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=200n ad=8.75e-13 as=8.75e-13 pd=10.35u ps=10.35u nrd=0.02 \
        nrs=0.02 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M12 (IBP_BUF2 IBN_EA VSS VSS) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=200n ad=8.75e-13 as=8.75e-13 pd=10.35u ps=10.35u nrd=0.02 \
        nrs=0.02 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M8 (IBP_BUF1 IBN_EA VSS VSS) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=200n ad=8.75e-13 as=8.75e-13 pd=10.35u ps=10.35u nrd=0.02 \
        nrs=0.02 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M7 (net127 net126 VSS VSS) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=200n ad=8.75e-13 as=8.75e-13 pd=10.35u ps=10.35u nrd=0.02 \
        nrs=0.02 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M6 (net124 net126 VSS VSS) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=200n ad=8.75e-13 as=8.75e-13 pd=10.35u ps=10.35u nrd=0.02 \
        nrs=0.02 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M4 (VBP_TAIL IBN_EA VSS VSS) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=200n ad=8.75e-13 as=8.75e-13 pd=10.35u ps=10.35u nrd=0.02 \
        nrs=0.02 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M2 (net128 VREF net66 net66) nch_mac l=500n w=5u multi=6 nf=1 sigma=1 \
        sd=200n ad=8.75e-13 as=8.75e-13 pd=10.35u ps=10.35u nrd=0.02 \
        nrs=0.02 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M5 (IBP_BUF1 IBP_BUF1 VDD VDD) pch_mac l=500n w=200n multi=1 nf=1 \
        sigma=1 sd=540.0n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 \
        nrs=0.5 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 mismatchflag=1
    M26 (net128 VBP_TAIL VDD VDD) pch_mac l=500n w=4u multi=3 nf=1 sigma=1 \
        sd=200n ad=7e-13 as=7e-13 pd=8.35u ps=8.35u nrd=0.025 nrs=0.025 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M24 (VEA VB_2 net128 VDD) pch_mac l=500n w=4u multi=2 nf=1 sigma=1 \
        sd=200n ad=7e-13 as=7e-13 pd=8.35u ps=8.35u nrd=0.025 nrs=0.025 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M19 (net126 VB_2 net125 VDD) pch_mac l=500n w=4u multi=2 nf=1 sigma=1 \
        sd=200n ad=7e-13 as=7e-13 pd=8.35u ps=8.35u nrd=0.025 nrs=0.025 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M15 (VBP_TAIL VBP_TAIL VDD VDD) pch_mac l=500n w=4u multi=1 nf=1 \
        sigma=1 sd=200n ad=7e-13 as=7e-13 pd=8.35u ps=8.35u nrd=0.025 \
        nrs=0.025 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M14 (net125 VBP_TAIL VDD VDD) pch_mac l=500n w=4u multi=3 nf=1 sigma=1 \
        sd=200n ad=7e-13 as=7e-13 pd=8.35u ps=8.35u nrd=0.025 nrs=0.025 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M9 (VG IBP_BUF1 VDD VDD) pch_mac l=500n w=200n multi=2 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750.0n ps=750.0n nrd=0.5 nrs=0.5 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M3 (IBP_BUF2 VEA VG VDD) pch_mac l=500n w=200n multi=4 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750.0n ps=750.0n nrd=0.5 nrs=0.5 \
        sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
ends EA_Core
// End of subcircuit definition.

// Library name: LDO_FC_SSF_N65
// Cell name: tb_DC
// View name: schematic
M0 (VOUT VG VDD VDD) pch_mac l=180.0n w=12.000m multi=1 nf=600 sigma=1 \
        sd=540.0n ad=3.24e-09 as=3.2484e-09 pd=12.324m ps=12.3648m \
        nrd=2.25e-05 nrs=2.25e-05 sa=480.0n sb=480.0n sca=0 scb=0 scc=0 \
        mismatchflag=1
V1 (VB_2 VSS) vsource dc=VB_2 type=dc
VIN2 (VDD 0) vsource dc=1.2 type=dc
V3 (VSS 0) vsource dc=0 type=dc
V0 (VB_1 VSS) vsource dc=VB_1 type=dc
V2 (VREF VSS) vsource dc=1 type=dc
I4 (VREF IBN_EA) isource dc=IBN_EA type=dc
I1 (VOUT VSS) isource dc=0 type=dc
C1 (VEA net016) capacitor c=CAP_CMP
C0 (VOUT VSS) capacitor c=1n
R0 (net016 VOUT) resistor r=RES_CMP
I8 (IBN_EA VB_1 VB_2 VDD VEA VOUT VG VREF VSS) EA_Core
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save VIN2:p 
saveOptions options save=allpub
